US05281571
To a solution of 4.05 g of 4-chloro-3-(2-fluoro-5-methoxy-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole in 50 ml of acetic acid was added 1.39 g (0.0249mol) of iron powder. The reaction mixture was heated near reflux for 2 hours, treated with 1.39 g of iron powder, and heated at near reflux for another hour. After cooling, concentrating and chromatography, 3.54 g of 4-chloro-3-(4-amino-2-fluoro-5-methoxyphenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole was isolated.

reactant | 4-chloro-3-(2-fluoro-5-methoxy-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 4.05 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)OC)[N+](=O)[O-])F | C12H8ClF4N3O3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 0.0249mol, 1.39 g | [Fe] | Fe
catalyst | iron | 1.39 g | [Fe] | Fe
product | 4-chloro-3-(4-amino-2-fluoro-5-methoxyphenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 3.54 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)OC)N)F | C12H10ClF4N3O
